US05602119
A suspension of n-butyl sulfamic acid (1.92 gm, 12.53 mmoles) and phosphorus pentachloride (2.61 gm, 12.53 mmoles) in benzene (20 mL) was warmed gently to initiate gas evolution. The reaction mixture was stirred at room temperature for 0.5 h., during which time a cloudy solution resulted. The cloudy solution was heated to reflux for 0.5 h., then was concentrated. The product n-butyl sulfamoyl chloride was isolated by vacuum distillation (120 C., 300 millitorr), 730 mg (liq.) (34%).

reactant | n-butyl sulfamic acid | 12.53 mmoles, 1.92 gm | C(CCC)NS(O)(=O)=O | C4H11NO3S
reactant | phosphorus pentachloride | 12.53 mmoles, 2.61 gm | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | n-butyl sulfamoyl chloride | C(CCC)NS(=O)(=O)Cl | C4H10ClNO2S
